US07919630B2
3-Allyl-5-n-butylidene-2-thiohydantoin
A flask equipped with a reflux condenser, magnetic stirrer, and nitrogen atmosphere was charged with diglyme (10 mL), 3-allylthiohydantoin (1.0 g, 0.0064 mol), morpholine (0.56 g, 0.0064 mol), and freshly distilled butyraldehyde (0.94 g, 0.13 mol). The mixture was heated in a 70° oil bath for 250 min and, after cooling, was diluted with 20 mL of ethyl acetate. The resulting solution was washed with 2×10 mL 1.2 M HCl, 10 mL of water, and 10 mL of saturated aqueous NaCl. The solution was then filtered through 1 PS paper and concentrated to dryness at aspirator pressure and then high vacuum. The light orange crystalline residue weighed 1.26 g (97%). An HPLC trace at 215 nm indicated that the major product comprised 92% of the mixture. Another component (5%), with a nearly identical ultraviolet spectrum, eluted slightly more slowly. This possibly represents the other geometric isomer. NMR (CDCl3) δ 10 (bs, 1H), 5.2-6.3 (m, 4H), 4.6 (d, 2H), 2.3 (quart., 2H), 1.8 (sex., 2H), 1.0 (t, 3H).

reactant | diglyme | 10 mL | COCCOCCOC | C6H14O3
reactant | 3-allylthiohydantoin | 0.0064 mol, 1.0 g | C(C=C)N1C(NCC1=O)=S | C6H8N2OS
reactant | morpholine | 0.0064 mol, 0.56 g | N1CCOCC1 | C4H9NO
reactant | butyraldehyde | 0.13 mol, 0.94 g | C(CCC)=O | C4H8O
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 3-Allyl-5-n-butylidene-2-thiohydantoin | C(C=C)N1C(NC(C1=O)=CCCC)=S | C10H14N2OS
